US09126981B2
Synthesis of 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)-2-methylpropanoic Acid (Compound VI-5)
According to the procedure described in the synthesis method of Compound VI-4, ethyl 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)-2-methylpropanoate (Compound V-2) (2.932 g, 10 mmol) was reacted with lithium hydroxide monohydrate (839.2 mg, mmol) to obtain the title compound (975.1 mg, 37%).

reactant | ethyl 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)-2-methylpropanoate | 10 mmol, 2.932 g | C(C1=CC=CC=C1)NC(=O)NN(C)C(C(=O)OCC)(C)C | C15H23N3O3
reactant | lithium hydroxide monohydrate | 839.2 mg | O.[OH-].[Li+]
product | 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)-2-methylpropanoic Acid | 975.1 mg, 37% | C(C1=CC=CC=C1)NC(=O)NN(C)C(C(=O)O)(C)C | C13H19N3O3
